US07915271B2
(4-methoxyphenyl)boronic acid (1 g, 6.58 mmol), 5-bromo-6-methylpyridin-2-amine (1.23 g, 6.58 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane adduct (537 mg, 0.658 mmol), potassium acetate (1.29 g, 13.16 mmol) and 1,4-dioxane (5 mL) were placed in a sealed tube and the mixture was subjected to microwave irradiation at 140° C. for 30 minutes. The resulting crude mixture was purified by flash column chromatography on SiO2 (Biotage 40+M cartridge, ethyl acetate) to afford 5-(4-methoxyphenyl)-6-methylpyridin-2-amine as a purple solid. LCMS calc.=214.11; found=215.17 (M+1)+.

reactant | (4-methoxyphenyl)boronic acid | 6.58 mmol, 1 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 5-bromo-6-methylpyridin-2-amine | 6.58 mmol, 1.23 g | BrC=1C=CC(=NC1C)N | C6H7BrN2
reactant | potassium acetate | 13.16 mmol, 1.29 g | C(C)(=O)[O-].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane | 0.658 mmol, 537 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-(4-methoxyphenyl)-6-methylpyridin-2-amine | COC1=CC=C(C=C1)C=1C=CC(=NC1C)N | C13H14N2O
